US05981573
(4) Preparation of 3-(tert-butoxycarbonyl)-4-hydroxy-4-[N-[(1R,2R)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoic acid
285 mg of methyl 3-(tert-butoxycarbonyl)-4-hydroxy-4-[N-[(1R,2R)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoate was dissolved in a mixture of 15 ml of tetrahydrofuran and 10 ml of water and stirred together with 4 ml of 1N aqueous sodium hydroxide at room temperature for 2.5 days. The reaction solution was acidified with 1N hydrochloric acid and then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [chloroform/methanol=100/1→10/1] to give 213 mg (yield: 76%) of the title compound as a colorless foamy substance.

reactant | methyl 3-(tert-butoxycarbonyl)-4-hydroxy-4-[N-[(1R,2R)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoate | 285 mg | C(C)(C)(C)OC(=O)C(CC(=O)OC)=C(C(N(C\C=C\C1=CC=CC=C1)[C@@H]([C@H](CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C1=CC2=C(C=C1)OCO2)C)=O)O | C42H44N2O10
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | 3-(tert-butoxycarbonyl)-4-hydroxy-4-[N-[(1R,2R)-1-methyl-2-(3,4-methylenedioxyphenyl)-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-{(E)-3-phenyl-2-propenyl}carbamoyl]-3-butenoic acid | 213 mg, yield: 76% | C(C)(C)(C)OC(=O)C(CC(=O)O)=C(C(N(C\C=C\C1=CC=CC=C1)[C@@H]([C@H](CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)C1=CC2=C(C=C1)OCO2)C)=O)O | C41H42N2O10
